US08138189B2
Step 3: 3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid
3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid methyl ester (62 mg) in THF (1.5 mL) and MeOH (0.3 ml) was treated with 1M aqueous LiOH (0.228 ml) and stirred for 2 h at 65° C. (bath-temperature). The organic solvents were evaporated in vacuo and the residue was diluted with water (2 ml) and acidified with 1M-HCl (0.3 ml). The precipitate was filtered and dried under high vacuum, leading to the title compound as a white solid (54 mg). MS (m/e, ISP neg. ion)=392.2 (M−H+).

reactant | 3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid methyl ester | 62 mg | COC(C1=CC(=C(C=C1)C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C)Cl)=O | C17H14Cl2F3NO3
reactant | LiOH | 1M, 0.228 ml | [Li+].[OH-]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 0.3 ml | CO | CH4O
product | 3-Chloro-4-[2-(2-chloro-pyridin-4-yl)-3,3,3-trifluoro-2-hydroxy-1-methyl-propyl]-benzoic acid | ClC=1C=C(C(=O)O)C=CC1C(C(C(F)(F)F)(O)C1=CC(=NC=C1)Cl)C | C16H12Cl2F3NO3
